US03953496
A solution of 17.2 g of 2-acetoxybenzoylchloride in 20 ml of dioxane was added at one time to a mixture of 4.6 g of 3,4-diaminobenzoic acid, 15.3 g of potassium acetate and 70 ml of water while stirring at a temperature of from 0° to 5°C, followed by stirring at that temperature for 30 minutes. To the mixture was added a solution of 1 g of 2-acetoxybenzoylchloride in 3 ml of dioxane. The resulting mixture was stirred at room temperature for 30 minutes and then at 50°C for 30 minutes. The reaction mixture was added to 200 ml of cold diluted hydrochloric acid and the undissolved mixture of oil and powdery solid was separated. The mixture was dissolved in about 100 ml of 1N aqueous sodium hydroxide solution, and the solution was treated with active carbon and then acidified to precipitate crystals. The crystals were recovered by filtration and washed with water. Recrystallization from a mixture of dioxane and water gave 6.9 g of 3,4-bis(salicylamido)-benzoic acid having a melting point between 305° - 307°C (decomposition).

reactant | 2-acetoxybenzoylchloride | 17.2 g | C(C)(=O)OC1=C(C(=O)Cl)C=CC=C1 | C9H7ClO3
reactant | 3,4-diaminobenzoic acid | 4.6 g | NC=1C=C(C(=O)O)C=CC1N | C7H8N2O2
reactant | potassium acetate | 15.3 g | C(C)(=O)[O-].[K+]
reactant | 2-acetoxybenzoylchloride | 1 g | C(C)(=O)OC1=C(C(=O)Cl)C=CC=C1 | C9H7ClO3
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | water | 70 ml | O | H2O
product | 3,4-bis(salicylamido)-benzoic acid | 6.9 g | C(C=1C(O)=CC=CC1)(=O)NC=1C=C(C(=O)O)C=CC1NC(C=1C(O)=CC=CC1)=O | C21H16N2O6
